US03985774
In the same manner but replacing γ-oxo-2-dibenzofuranbutyric acid methyl ester with an equivalent amount of γ-oxo-3-dibenzofuranbutyric acid methyl ester, described in Example 4, there is obtained γ-oxo-3-dibenzofuranbutyric acid, m.p. 208° - 210°C., after recrystallization from ethanol.

reactant | γ-oxo-2-dibenzofuranbutyric acid methyl ester | COC(CCC(C1=CC2=C(OC3=C2C=CC=C3)C=C1)=O)=O | C17H14O4
reactant | γ-oxo-3-dibenzofuranbutyric acid methyl ester | COC(CCC(C=1C=CC2=C(OC3=C2C=CC=C3)C1)=O)=O | C17H14O4
product | γ-oxo-3-dibenzofuranbutyric acid | O=C(CCC(=O)O)C=1C=CC2=C(OC3=C2C=CC=C3)C1 | C16H12O4
